US08791119B2
A suspension of 0.67 g (2.23 mmol) of 6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide, 0.712 g (2.67 mmol) of 4-nitrophenyl tetrahydro-2H-pyran-4-ylcarbamate and 0.616 g (1.12 mmol) of potassium carbonate in 10 ml of acetonitrile is heated at 65° C. for 1 hour 30 minutes. After cooling, the mixture is concentrated under reduced pressure, the residue is diluted with dichloromethane and the solution is washed with aqueous 1N sodium hydroxide solution. The organic phase is washed with water, dried over sodium sulfate and filtered, and the solvent is evaporated off under reduced pressure. The residue is purified by chromatography on a column of 40 g of silica gel, eluting with a mixture of 2 to 5% methanol in dichloromethane, to give 0.79 g of 6-chloro-7-(3-cyanophenyl)-N2-(tetrahydro-2H-pyran-4-yl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a whitish powder after recrystallizing from 100 ml of ethanol, filtering off and drying under reduced pressure.

reactant | 6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide | 2.23 mmol, 0.67 g | ClC1=C(C(=C2N1CCNC2)C(=O)N)C2=CC(=CC=C2)C#N | C15H13ClN4O
reactant | 4-nitrophenyl tetrahydro-2H-pyran-4-ylcarbamate | 2.67 mmol, 0.712 g | O1CCC(CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H14N2O5
reactant | potassium carbonate | 1.12 mmol, 0.616 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 6-chloro-7-(3-cyanophenyl)-N2-(tetrahydro-2H-pyran-4-yl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 0.79 g | ClC1=C(C(=C2N1CCN(C2)C(=O)NC2CCOCC2)C(=O)N)C2=CC(=CC=C2)C#N | C21H22ClN5O3
